US06858630B2
a) 7,8-Diamino-1-hydroxy-3-naphthalene sulfonic acid dihydrochloride
A stirred solution of p-benzenediazonium sulfonic acid, was prepared by the addition of sodium sulfanilate (1.10 g, 5.2 mmole) to sodium nitrite (0.40 g, 5.7 mmole) in water (10 mL) followed by addition to ice (6.0 g) and concentrated HCl (1.1 mL, 37%). After 30 min. of standing at 0° C. 7-amino-1-hydroxy-3-naphthalene sulfonic acid (1.2 g, 5.2 mmole) was added in water (10 mL) and the reaction was stirred at room temperature overnight. The reaction mixture was warmed to 50° C. and sodium hydrosulfite (3.0 g, 15.6 mmole) was added and the reaction was stirred for 4 hours. The reaction was filtered and the precipitate was washed with water, methanol, and ether to give the title compound (0.54 g; 45%) as a red solid. MS(ES) m/z 255 [M+H].

reactant | sodium sulfanilate | 5.2 mmole, 1.10 g | S(=O)(C1=CC=C(C=C1)N)(=O)[O-].[Na+]
reactant | sodium nitrite | 5.7 mmole, 0.40 g | N(=O)[O-].[Na+]
reactant | HCl | 1.1 mL | Cl | ClH
reactant | 7-amino-1-hydroxy-3-naphthalene sulfonic acid | 5.2 mmole, 1.2 g | NC1=CC=C2C=C(C=C(C2=C1)O)S(=O)(=O)O | C10H9NO4S
reactant | sodium hydrosulfite | 15.6 mmole, 3.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 7,8-Diamino-1-hydroxy-3-naphthalene sulfonic acid dihydrochloride | 0.54 g, 45% | Cl.Cl.NC1=CC=C2C=C(C=C(C2=C1N)O)S(=O)(=O)O | InChI=1S/C10H10N2O4S.2ClH/c11-7-2-1-5-3-6(17(14,15)16)4-8(13)9(5)10(7)12;;/h1-4,13H,11-12H2,(H,14,15,16);2*1H
